US07034039B2
To a solution of 4-chlorophthalic anhydride (9.13 g, 50 mmol) in tetrahydrofuran (50 ml) was added 28% sodium methoxide-methanol solution (11.6 ml, 60 mmol), and the mixture was stirred at room temperature for 30 min. The reaction mixture was poured into water, and, after making the mixture acidic with 1N hydrochloric acid, extracted with ethyl acetate. The extract was washed with brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was dissolved in tetrahydrofuran (100 ml) and oxalyl chloride (5.2 ml, 60 mmol) and N,N-dimethylformamide (3 drops) were added thereto. The mixture was stirred at room temperature for 30 min. The reaction mixture was concentrated under reduced pressure, and the residue was dissolved in N,N-dimethylacetamide (100 ml). To the obtained solution was added ethyl sarcosinate hydrochloride (9.22 g, 60 mmol). The obtained mixture was stirred at room temperature for 2 h. The reaction mixture was poured into 1N hydrochloric acid and extracted with ethyl acetate. The extract was washed with brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was dissolved in ethanol (100 ml) and 20% sodium ethoxide ethanol solution (27.2 g, 80 mmol) was added. The mixture was stirred at room temperature for 1 h. The reaction mixture was poured into 1N hydrochloric acid (100 ml) and extracted with ethyl acetate. The extract was washed with brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography and the component eluted earlier was concentrated to give ethyl 7-chloro-4-hydroxy-2-methyl-1-oxo-1,2-dihydro-3-isoquinolinecarboxylate (2.24 g, 20.9%) as crystals.

reactant | 4-chlorophthalic anhydride | 50 mmol, 9.13 g | ClC=1C=C2C(C(=O)OC2=O)=CC1 | C8H3ClO3
reactant | sodium methoxide methanol | 60 mmol, 11.6 ml | C[O-].[Na+].CO
reactant | hydrochloric acid | 1N | Cl | ClH
reactant | oxalyl chloride | 60 mmol, 5.2 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | ethyl sarcosinate hydrochloride | 60 mmol, 9.22 g | Cl.N(C)CC(=O)OCC
reactant | hydrochloric acid | 1N | Cl | ClH
reactant | sodium ethoxide ethanol | 80 mmol, 27.2 g | C(C)O.[O-]CC.[Na+]
reactant | hydrochloric acid | 1N, 100 ml | Cl | ClH
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
catalyst | N,N-dimethylformamide | 3 drops | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | ethyl 7-chloro-4-hydroxy-2-methyl-1-oxo-1,2-dihydro-3-isoquinolinecarboxylate | 2.24 g, 20.9% | ClC1=CC=C2C(=C(N(C(C2=C1)=O)C)C(=O)OCC)O | C13H12ClNO4
